US05616586
2) 5-Methoxycarbonylmethyl-9-nitro-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
To a solution of 5-methoxycarbonylmethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (66 mg, 0.24 mmol) in concentrated sulfuric acid (1.5 mL) was added isopropyl nitrate (30 μL, 0.3 mmol) at 0° C. The mixture was stirred for 45 min at 0° C., poured into ice-water, and extracted with ethyl acetate (100 mL×2). The extracts were washed with brine, dried over magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography with 0.1% acetic acid/ethyl acetate to give 33 mg of the title compound (43%): mp 254°~256° C.; 1H NMR (270 MHz, DMSO-d6) δ12.23 (bs, 1H), 7.91 (d, 1H, J=2.6 Hz), 7.85 (d, 1H, J=2.6 Hz), 5.05~5.21 (m, 1H), 3.64 (s, 3H), 2.85~3.10 (m, 2H), 2.56~2.72 (m, 2H), 2.17 (dm, 1H, J=13.5 Hz), 1.80~2.00 (m, 1H).

reactant | 5-methoxycarbonylmethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.24 mmol, 66 mg | COC(=O)CC1CCC=2C=3N1C(C(NC3C=CC2)=O)=O | C14H14N2O4
reactant | isopropyl nitrate | 0.3 mmol, 30 μL | [N+](=O)(OC(C)C)[O-] | C3H7NO3
solvent | sulfuric acid | 1.5 mL | S(O)(O)(=O)=O | H2O4S
product | 5-Methoxycarbonylmethyl-9-nitro-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 33 mg, 43% | COC(=O)CC1CCC=2C=3N1C(C(NC3C=C(C2)[N+](=O)[O-])=O)=O | C14H13N3O6
